US07217710B2
Preparation of 3-Chloro-1-isopropyl-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine
Triphenylphosphine (387 mg, 1.5 mmol) was dissolved in THF (15 mL) and the solution was cooled to −78° C. Diethyl azodicarboxylate (225 uL, 1.5 mmol) was added slowly to the reaction mixture. The reaction was stirred for 5 min and then isopropanol was added (115 uL, 1.5 mmol) dropwise. After stirring an additional 5 min. the 3-Chloro-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine (305 mg, 1.6 mmol) was added as a solid. The resulting suspension was kept at −78° C. for 5 min then the cooling bath was removed. The reaction was stirred for 3 hours at room temperature. After concentration the desired 3-Chloro-1-isopropyl-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine was obtained by column chromotography (0–5% MeOH/methylene chloride); 1H-NMR (CDCl3): • 1.46 (d, 1H), 2.66 (s, 3H), 4.53 (q, 6H), 8.87 (s, 1H); LC/MS (m/e)=243.0 (MH+), Rt=2.25 min.

reactant | Triphenylphosphine | 1.5 mmol, 387 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 1.5 mmol, 225 uL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | 3-Chloro-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine | 1.6 mmol, 305 mg | ClC1=NNC2=NC(=NC=C21)SC | C6H5ClN4S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-Chloro-1-isopropyl-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine | ClC1=NN(C2=NC(=NC=C21)SC)C(C)C | C9H11ClN4S
